Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
Coronary Cath on ___

attach
 
Pertinent Results:
ADMISSION LABS:
================
___ 03:56PM BLOOD WBC-10.6* RBC-4.52 Hgb-14.2 Hct-41.5 
MCV-92 MCH-31.4 MCHC-34.2 RDW-14.5 RDWSD-49.0* Plt ___
___ 03:56PM BLOOD Neuts-73.2* ___ Monos-5.5 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-7.79* AbsLymp-2.18 
AbsMono-0.58 AbsEos-0.02* AbsBaso-0.02
___ 03:56PM BLOOD Glucose-109* UreaN-12 Creat-0.7 Na-130* 
K-4.7 Cl-94* HCO3-24 AnGap-12
___ 03:56PM BLOOD cTropnT-0.25*
___ 12:00AM BLOOD CK-MB-24* cTropnT-0.92*
___ 07:46PM BLOOD Cholest-169
___ 07:46PM BLOOD Triglyc-51 HDL-66 CHOL/HD-2.6 LDLcalc-93

CARDIAC CATH ___
Single vessel coronary artery disease.
Successful PCI with drug-eluting stent of the RCA coronary 
artery.

TTE ___
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and mild regional systolic dysfunction c/w 
CAD in a PDA distribution. Normal right ventricular cavity size 
nd systolic function. Mild tricuspid regurgitation. Normal 
estimated pulmonary artery systolic pressure.

DISCHARGE LABS:
===============
___ 07:06AM BLOOD WBC-11.9* RBC-3.94 Hgb-12.4 Hct-37.2 
MCV-94 MCH-31.5 MCHC-33.3 RDW-14.4 RDWSD-50.0* Plt ___
___ 07:06AM BLOOD Glucose-83 UreaN-17 Creat-0.6 Na-133* 
K-4.3 Cl-102 HCO3-20* AnGap-11
___ 07:56AM BLOOD CK-MB-15* cTropnT-0.88*
___ 07:06AM BLOOD Calcium-8.3* Phos-3.1 Mg-2.1
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[] Pt had DES placed in RCA. Started on Plavix 75mg which should 
be continued for atleast 12 months.
[] Patient started on baby aspirin and atorvastatin which should 
be continued indefinitely
[] Patient was also started on metoprolol 50mg daily and her 
home lisinopril 40mg was decreased to 20mg. Please titrate these 
medications as an outpatient depending on her blood pressures.
[] Please continue smoking cessation efforts as an outpatient.

BRIEF HOSPITAL COURSE:
======================  
___ history of high blood pressure, high cholesterol,
smoking history coming with chest pressure found to have an
NSTEMI, underwent cath on ___ with single vessel disease of RCA 
s/p ___.

# CORONARIES:  No previous PCI
# PUMP:  ___ ECHO EF 65%. Repeat TTE on ___ with EF 48%
# RHYTHM:  Sinus Rhythm 

ACUTE ISSUES:
-------------
# NSTEMI: 
Patient presented with chest pressure with cardiac RFs of 
current smoking and hypertension, found to have NSTEMI with 
elevated troponins and T wave inversions on EKG. She was loaded 
with Aspirin and placed on a heparin drip. She underwent cardiac 
catheterization on ___ significant for single vessel disease 
with DES placed to RCA. She was initiated on Plavix 75mg as well 
as ASA 81, Metoprolol succinate 25mg qd, atorvastatin 80mg qd. 
She also had an echocardiogram on ___ significant for slightly 
reduced EF of 48% with mild LV hypertrophy, mild regional 
systolic function c/w CAD in PDA and mild tricuspid 
regurgitation. Patient was stabilized on this regimen and 
subsequently discharged.
- Lisinopril was decreased from 40mg qd to 20mg qd given 
initiation of metoprolol. Please titrate these medications as 
needed as outpatient
- Pt should continue on Plavix for ___ year and ASA and 
atorvastatin indefinitely
- Please continue smoking cessation efforts as outpatient

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QSUN 
2. Lisinopril 40 mg PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
6.  Alendronate Sodium 70 mg PO QSUN  
7.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
NSTEMI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had a heart attack  

WHAT HAPPENED IN THE HOSPITAL?  
============================== 
- Your heart arteries were examined (cardiac catheterization) 
which showed a blockage of one of the arteries. This was opened 
by placing a tube called a stent in the artery. You were given 
medications to prevent future blockages.  
- It is very important to take your aspirin and clopidogrel 
(also known as Plavix) every day. These two medications keep the 
stents in the vessels of the heart open and help reduce your 
risk of having a future heart attack.
- If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents and having another 
heart attack.
- We have also started you on a couple new medications called 
atorvastatin and metoprolol which you should also continue to 
take.
- We have decreased your dose of lisinopril from 40mg to 20mg 
daily.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 

 
Followup Instructions:
___